US04454145
2,2,7,7-Tetramethyl-1,8-octanediol dinicotinate
A suspension of 106.2 grams (0.6 mole) of nicotinoyl chloride hydrochloride in 300 ml of anhydrous pyridine was added in 2 hours under stirring with a solution of 20.2 grams (0.1 mole) of 2,2,7,7-tetramethyl-1,8-octanediol in 60 ml of anhydrous pyridine while keeping the temperature at about 70° C. The reaction was refluxed and stirred for 36 hours, then, after cooling, the formed precipitate was removed by filtration. The filtrate was evaporated under vacuum and the obtained residue was treated with a mixture of 200 ml of diethyl ether and 100 ml of an 8% aqueous solution of sodium bicarbonate. The organic layer was separated, washed first with 100 ml of a 3% aqueous solution of sodium bicarbonate, then with 100 ml of water and finally concentrated under vacuum to about half of the initial volume. After standing overnight, the product which separated was recovered by filtration and recrystallized from ethanol thus obtaining 22 grams of the title product, having m.p. 89° -90° C. Yield 53.4% of theoretical.

reactant | nicotinoyl chloride hydrochloride | 0.6 mole, 106.2 grams | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 2,2,7,7-tetramethyl-1,8-octanediol | 0.1 mole, 20.2 grams | CC(CO)(CCCCC(CO)(C)C)C | C12H26O2
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 2,2,7,7-Tetramethyl-1,8-octanediol dinicotinate | 22 grams, Yield 53.4% | C(C1=CN=CC=C1)(=O)OCC(CCCCC(COC(C1=CN=CC=C1)=O)(C)C)(C)C | C24H32N2O4
